US07943800B2
6-Heptenoyl Chloride 38:
To a solution of 6-heptenoic acid (251 μL, 1.85 mmol) in CH2Cl2 (5 mL) at rt was added oxalyl chloride (476 μL, 5.55 mmol) and DMF (1 drop). After stirring for 1 hr, the reaction mixture was concentrated under reduced pressure and put under high vacuum for 15 min. The residual yellow oil was dissolved in CH2Cl2 (3 mL) and used as a stock solution (0.62M) for the subsequent acylation reactions.

reactant | 6-heptenoic acid | 1.85 mmol, 251 μL | C(CCCCC=C)(=O)O | C7H12O2
reactant | oxalyl chloride | 5.55 mmol, 476 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 6-Heptenoyl Chloride | C(CCCCC=C)(=O)Cl | C7H11ClO
